US05728842
(i) 2-n-Butylimidazole-4-acetic Acid. Ethyl Ester
Sodium hydride (2.82 g, 0,117 mol) was dissolved in 30 ml of absolute ethanol at 0° C. Valeramidine hydrochloride (16.71 g, 0.123 mol) was added to this solution, and after 15 minutes the solution was filtered and the collected solid was washed with 20 ml of ethanol and 50 ml of benzene. The combined filtrates were diluted with 750 ml of benzene, 15 g (0.117 mol) of methyl 3-formylacrylate was added, and the mixture was refluxed for 18.5 h using a trap to remove water. The solvents were removed under vacuum and the residue slurried in ether. Evaporation of the ether solution gave the title compound as an oil.

reactant | Sodium hydride | 0,117 mol, 2.82 g | [H-].[Na+]
reactant | Valeramidine hydrochloride | 0.123 mol, 16.71 g | Cl.C(CCCC)(=N)N
reactant | methyl 3-formylacrylate | 0.117 mol, 15 g | C(=O)C=CC(=O)OC | C5H6O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | benzene | 750 ml | C1=CC=CC=C1 | C6H6
product | 2-n-Butylimidazole-4-acetic Acid. Ethyl Ester | C(CCC)C=1NC=C(N1)CC(=O)OCC | C11H18N2O2
